US07655666B2
To a solution of 2-amino-4-(1-fluoro-ethyl)-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (280 mg, 1.01 mmol) in DCM (20 mL) were added Et3N (0.565 mL, 4.04 mmol) and then (CCl3O)2CO (245 mg, 0.808 mmol). The resulting mixture was stirred at r.t. for 3 h. The solvent was removed in vacuo and the residue solubilised in THF (20 mL). CH3SO2NHNH2 (152 mg, 1.35 mmol) was added and, after stirring at r.t for 3 h, a second portion of CH3SO2NHNH2 was added (117 mg) and the reaction was allowed to proceed for 1 h. Aq NaOH (1N, 1.4 mL, 1.4 mmol) was then added and the mixture was stirred for 19 h. The solvent was removed in vacuo and water was added. The pH was adjusted to 3-4 by addition of 2N aq HCl. The aqueous phase was extracted with EtOAc (2×). The organic phases were combined, washed with brine, dried (Na2SO4) and concentrated in vacuo to afford a crude solid. The crude product was purified by flash chromatography (silica gel, EtOAc/hexanes (3:7 to 10:)) to give N-[7-(1-fluoro-ethyl)-6-(2-methyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (150 mg, 0.383 mmol, 36%) as a light yellow solid. ES-MS: m/z 382 [M+H]+. 1H-NMR (CDCl3, 400 MHz) 10.5 (s, 1H); 8.02 (s, 1H); 7.61 (d, J=1.6 Hz, 1H); 7.53 (s, 1H); 6.27 (d, J=1.95 Hz, 1H); 5.44-5.45 (qd, J=6.3, 46.9 Hz, 1H); 3.72 (s, 3H); 3.33 (s, 1H); 1.40-1.48 (dd, J=6.3, 24.2 Hz, 3H).

reactant | 2-amino-4-(1-fluoro-ethyl)-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 1.01 mmol, 280 mg | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C)C(C)F)N)=O | C14H16FN3O2
reactant | Et3N | 4.04 mmol, 0.565 mL | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 1.35 mmol, 152 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1.4 mmol, 1N, 1.4 mL | [OH-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[7-(1-fluoro-ethyl)-6-(2-methyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 0.383 mmol, 150 mg, 36% | FC(C)C1=C(C=C2C(N(C(NC2=C1)=O)NS(=O)(=O)C)=O)C=1N(N=CC1)C | C15H16FN5O4S
